### PR TITLE
add some error handling to steps tactic

### PR DESCRIPTION
**Pull request by mpenciak**
This PR improves the error handling for some of our tactics, addressing #92.

* `steps` flags unkonwn supplied lemmas instead of failing silently
* `enter_block_as` and `loop_inv` flag incorrectly formatted/nonsense pre and post conditions instead of failing silently
* `enter_decl` gives a more insightful error when the declaration is not in the environment 

It also adds configuration options to `steps` with the syntax
`steps <limit> [<lemmas>] +config1 +config2 -not_config3 ...`
So far only `+strict` is detected, but it leaves open the option for more fine-grained steps behavior

TODOs:
- [x] Improve `enter_decl` error handling
- [x] Figure out the issue with type unification in pre and post conditions
- [x] Figure out if we can get rid of the `term` field in `AddLemma`

### CODE REVIEW

File: Lampe/Lampe/Tactic/Steps.lean [hunk 1]
```diff
@@ -198,7 +199,7 @@ structure AddLemma where
 def tryApplySyntaxes (goal : MVarId) (lemmas : List AddLemma): TacticM (List MVarId) := match lemmas with
 | [] => throwError "no lemmas left"
 | n::ns => do
-  trace[Lampe.STHoare.Helpers] "trying {n.term} with generalizeEnv: {n.generalizeEnv}"
+  trace[Lampe.STHoare.Helpers] "trying {← ppExpr n.expr} with generalizeEnv: {n.generalizeEnv}"
```
Comment (iamrecursion) [inline Lampe/Lampe/Tactic/Steps.lean:202]:
```suggestion
  trace[Lampe.STHoare.Helpers] "trying {←ppExpr n.expr} with generalizeEnv: {n.generalizeEnv}"
```

File: Lampe/Tests/Negatives.lean [hunk 2]
```diff
@@ -17,11 +17,10 @@ example : STHoare p env ⟦⟧ (zero_by_another_name.fn.body _ h![] |>.body h![]
   simp only [zero_by_another_name]
   steps
 
-  step_as (⟦⟧) (fun v => v = -1)
+  step_as (⟦⟧) (fun v => v = (-1 : Fp p))
```
Comment (iamrecursion) [inline Lampe/Tests/Negatives.lean:20]: What changed that this is annotation is now necessary?

File: Lampe/Tests/Syntax.lean [hunk 3]
```diff
@@ -284,7 +284,7 @@ example : STHoare p ⟨[add_two_fields], []⟩ ⟦⟧
     fun (v : Tp.denote p .field) => v = 3 := by
   simp only [call_decl]
   steps
-  step_as (⟦⟧) (fun v => v = 3)
+  step_as (⟦⟧) (fun (v : Fp p) => v = 3)
```
Comment (iamrecursion) [inline Lampe/Tests/Syntax.lean:287]: Same with this?

**Review by iamrecursion — CHANGES_REQUESTED** [review]
Fundamentally this looks good, but there are a few changes that seem like a regression to me.

**Comment by mpenciak** [comment]
So to explain why the annotations are necessary:

Before the pre and post conditions for all of our tactics were just pure syntax holes you could fill in that would later be used by the tactics. The main change this PR institutes is it elaborates these syntax terms and gives the user some feedback on whether the syntax is mal-formed, not type correct, or any other issues it may have.

The upside of this is we get actual errors when you give tactics nonsense (like bad loop invariants, post-conditions that don't make sense, additional lemmas to steps that don't exist, etc...). The downside is that now when you write down pre/post conditions you need to give terms that typecheck, and in these cases this means the metavariable types need to be known.
